US06043248
In a manner similar to the procedure described for the synthesis of 4-(4-morpholinyl)methylpyridine, 4-picolylchloride hydrochloride (6.00 g, 0.0366 mol) and diethylamine (10.68 g, 0.146 mol, 4.0 equiv.) provided 5.28 g (88%) of 4-(N,N-diethylaminomethyl)pyridine.

reactant | 4-(4-morpholinyl)methylpyridine | N1(CCOCC1)CC1=CC=NC=C1 | C10H14N2O
reactant | 4-picolylchloride hydrochloride | 0.0366 mol, 6.00 g | Cl.N1=CC=C(C=C1)CCl
reactant | diethylamine | 0.146 mol, 10.68 g, 4.0 equiv. | C(C)NCC | C4H11N
product | 4-(N,N-diethylaminomethyl)pyridine | 5.28 g, 88% | C(C)N(CC)CC1=CC=NC=C1 | C10H16N2
